US05994350
a) N-tert-amyl-3-methoxy-4-nitrobenzamide
30 ml of tert-amylamine are added at 10° C. to a solution of 27 g of 3-methoxy-4-nitrobenzoyl chloride (obtained from 25 g of the corresponding acid and thionyl chloride at reflux for 4 hours, followed by evaporation under vacuum) in 250 ml of dichloromethane. The reaction mixture is stirred for 30 minutes at 20° C., 100 ml of a 1N hydrochloric acid solution are then added, the organic phase is separated by settling, washed and dried over MgSO4, the solvent is then evaporated and the residue is chromatographed on silica gel, elution being carried out with dichloromethane, to obtain 31 g of the expected product; M.p.=65° C.

reactant | tert-amylamine | 30 ml | C(C)(C)(CC)N | C5H13N
reactant | 3-methoxy-4-nitrobenzoyl chloride | 27 g | COC=1C=C(C(=O)Cl)C=CC1[N+](=O)[O-] | C8H6ClNO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | N-tert-amyl-3-methoxy-4-nitrobenzamide | 31 g | C(C)(C)(CC)NC(C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O | C13H18N2O4
